US07176242B2
To a −60° C. solution of 7-bromo-N-butyl-N-methylisoquinolin-1-amine (230 mg, 0.78 mmol) in diethyl ether was added sec-butyllithium (1.00 mL of a 1.3 M solution in cyclohexanes, 1.30 mmol). The solution was stirred at −60° C. for 20 min then excess dry ice (CO2) was added and the reaction mixture was allowed to warm to room temperature. The reaction mixture was then acidified with 1 N hydrochloric acid and extracted with ethyl acetate. The aqueous phase was concentrated under reduced pressure to yield a yellow oil. Purification by flash column chromatography (silica, 50:30:15:5 ethyl acetate/chloroform/methanol/ammonium hydroxide) provided 1-[butyl(methyl)amino]isoquinoline-7-carboxylic acid (90 mg): ESI MS m/z 259 [M+H]+.

reactant | 7-bromo-N-butyl-N-methylisoquinolin-1-amine | 0.78 mmol, 230 mg | BrC1=CC=C2C=CN=C(C2=C1)N(C)CCCC | C14H17BrN2
reactant | sec-butyllithium | C(C)(CC)[Li]
reactant | dry ice | C(=O)=O | CO2
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | diethyl ether | C(C)OCC | C4H10O
product | 1-[butyl(methyl)amino]isoquinoline-7-carboxylic acid | 90 mg | C(CCC)N(C1=NC=CC2=CC=C(C=C12)C(=O)O)C | C15H18N2O2
